US07781435B2
(S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[1-(4-trifluoromethyl-phenyl)-ethyl]-1H-imidazol-4-yl}-amide
4-Nitro-1-[1-(4-trifluoromethyl-phenyl)-ethyl]-1H-imidazole was reduced and then coupled with 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (U.S. Ser. No. 11/078,898 filed Mar. 11, 2005) to afford the title compound: MS 509.5 m/z (M+1).

reactant | 4-Nitro-1-[1-(4-trifluoromethyl-phenyl)-ethyl]-1H-imidazole | [N+](=O)([O-])C=1N=CN(C1)C(C)C1=CC=C(C=C1)C(F)(F)F | C12H10F3N3O2
reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)O)CCC | C13H15F2NO3
product | (S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[1-(4-trifluoromethyl-phenyl)-ethyl]-1H-imidazol-4-yl}-amide | FC(C1=CC=C(C=C1)C(C)N1C=NC(=C1)NC([C@H](CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)(F)F | C25H25F5N4O2
